US05192765
(b) 1-Diphenylmethoxy-2-methyl-2-(methylamino)propane
A solution of 1-diphenylmethoxy-2-formylamino-2-methylpropane (8.2 g) in ether (50 ml) was added to a suspension of lithium aluminium hydride (2.2 g) in ether (100 ml) at a rate which maintained a gentle reflux. The mixture was stirred at room temperature for 18 hours, quenched by the sequential dropwise addition of water (2.2 ml), 5M aqueous sodium hydroxide solution (2.2 ml) and water (6.6 ml) and filtered. The filtrate was dried over sodium sulphate and evaporated to give the title compound as a colourless gum (7.5 g, 96%).

reactant | 1-diphenylmethoxy-2-formylamino-2-methylpropane | 8.2 g | C1(=CC=CC=C1)C(OCC(C)(C)NC=O)C1=CC=CC=C1 | C18H21NO2
reactant | lithium aluminium hydride | 2.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Diphenylmethoxy-2-methyl-2-(methylamino)propane | 7.5 g, 96% | C1(=CC=CC=C1)C(OCC(C)(NC)C)C1=CC=CC=C1 | C18H23NO
